US07576082B2
To a suspension of isonicotinic acid (0.369 g, 3 mmol) (Aldrich) in toluene (15 mL) was added diphenylphosphoryl azide (0.958 g, 3.5 mmol) (Aldrich), followed by the addition of triethylamine (0.35 g, 3.6 mmol) (Aldrich). The mixture was stirred at room temperature for 30 minutes and the mixture became clear. Then the mixture was heated at 80° C. for 2 hours. The mixture was cooling down to room temperature to give crude 4-isocyanato-pyridine as 0.2 M solution of toluene and used for the next step without further purification.

reactant | isonicotinic acid | 3 mmol, 0.369 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | diphenylphosphoryl azide | 3.5 mmol, 0.958 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.6 mmol, 0.35 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-isocyanato-pyridine | N(=C=O)C1=CC=NC=C1 | C6H4N2O
